US07858785B2
(iii) 2-(2-Bromothiophene-5-carbonyl)-3-(dimethylamino)acrylonitrile
3-(5-Bromothiophen-2-yl)-3-oxopropanenitrile (4 g, 17 mmol) was treated with dimethyl formamide dimethylacetal and the mixture heated to 100° C. After 1 h, the mixture was allowed to cool down to room temperature. The yellow solid that precipitated was collected by suction filtration and washed well with diethyl ether. Yield=4.6 g. MS (M+H)+ 284.

reactant | 3-(5-Bromothiophen-2-yl)-3-oxopropanenitrile | 17 mmol, 4 g | BrC1=CC=C(S1)C(CC#N)=O | C7H4BrNOS
reactant | dimethyl formamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 2-(2-Bromothiophene-5-carbonyl)-3-(dimethylamino)acrylonitrile | BrC=1SC(=CC1)C(=O)C(C#N)=CN(C)C | C10H9BrN2OS
